US04236004
A mixture of 10 g. (0.038 mole) of 4-chloro-2-phenyl-5-pyrimidine carboxylic acid ethyl ester and 7.1 g. (0.076 mole) of aniline in 200 ml. of ethanol was refluxed for 3 hours. Upon cooling a yellow solid precipitated from the solution. This was filtered off and rinsed with ethanol to give 4-anilino-2-phenyl-5-pyrimidine carboxylic acid ethyl ester, m.p. 98°-100° C. No further purification was done and the product was used directly in the next step.

reactant | 4-chloro-2-phenyl-5-pyrimidine carboxylic acid ethyl ester | 0.038 mole | C(C)OC(=O)C=1C(=NC(=NC1)C1=CC=CC=C1)Cl | C13H11ClN2O2
reactant | aniline | 0.076 mole | NC1=CC=CC=C1 | C6H7N
solvent | ethanol | C(C)O | C2H6O
product | 4-anilino-2-phenyl-5-pyrimidine carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NC(=NC1)C1=CC=CC=C1)NC1=CC=CC=C1 | C19H17N3O2
